US06906067B2
Cyanuric chloride (65.0 mg, 0.35 mmol) was added to an acetone solution (5 mL) of 3-amino-5-chloro-4-methyl-benzamide (65.0 mg, 0.35 mmol) at 0° C. The mixture was stirred for 1 h at 0° C. Ice was added to the mixture and subsequent filtration yielded of 3-chloro-5-(4,6-dichloro-[1,3,5]triazin-2-ylamino)-4-methyl-benzamide (101.0 mg, 87%) as white solid. MS (m/z) calced for C11H8N5O (MH+), 331: found, 331.

reactant | Cyanuric chloride | 0.35 mmol, 65.0 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 3-amino-5-chloro-4-methyl-benzamide | 0.35 mmol, 65.0 mg | NC=1C=C(C(=O)N)C=C(C1C)Cl | C8H9ClN2O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 3-chloro-5-(4,6-dichloro-[1,3,5]triazin-2-ylamino)-4-methyl-benzamide | 101.0 mg, 87% | ClC=1C=C(C(=O)N)C=C(C1C)NC1=NC(=NC(=N1)Cl)Cl | C11H8Cl3N5O
